US07582625B2
(R)-2-{4-[1-(3-carboxy-propyl)-piperidin-4-yl]-piperazin-1-yl}-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Prepared analogously to Example 8.1 from 50 mg (0.07 mmol) (R)-2-{4-[1-(3-ethoxycarbonyl-propyl)-piperidin-4-yl]-piperazin-1-yl}-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 2.6 mg (0.11 mmol) LiOH.

reactant | (R)-2-{4-[1-(3-ethoxycarbonyl-propyl)-piperidin-4-yl]-piperazin-1-yl}-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.07 mmol, 50 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCN(CC1)C1CCN(CC1)CCCC(=O)OCC)CC1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C41H58N6O7
reactant | LiOH | 0.11 mmol, 2.6 mg | [Li+].[OH-]
product | (R)-2-{4-[1-(3-carboxy-propyl)-piperidin-4-yl]-piperazin-1-yl}-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCN(CC1)C1CCN(CC1)CCCC(=O)O)CC1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C39H54N6O7
